US04714492
10.25 g of ethyl beta-methylaminocinnamate, 9.4 g of technical grade diketene and 25 ml dry methylene chloride are mixed in a flask fitted with a calcium chloride drying tube. The reaction mixture is stored at room temperature for 117 hours. Approximately 75 ml of dry ether is added and the resulting crystalline solid is filtered to yield 8.5 g of ethyl 1,6-dimethyl-2-phenyl-4-oxonicotinate. mp (toluene)=244°-248° C.

reactant | ethyl beta-methylaminocinnamate | 10.25 g | CNC(=CC(=O)OCC)C1=CC=CC=C1 | C12H15NO2
reactant | diketene | C=C1CC(=O)O1 | C4H4O2
reactant | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
solvent | ether | 75 ml | CCOCC | C4H10O
product | ethyl 1,6-dimethyl-2-phenyl-4-oxonicotinate | 8.5 g | CN1C(=C(C(=O)OCC)C(C=C1C)=O)C1=CC=CC=C1 | C16H17NO3
